US20010007875A1
Preparation of 5-[1-methyl-2-phenoxyethylidene]-2,4-thiazolidinedione (XVII)
29.3 g of 2,4-thiazolidinedione and 34.2 ml of phenoxy-2-propanone are heated under reflux in 500 ml of toluene for 20 h in the presence of 2.5 ml of piperidine and 1.3 l of acetic acid. 4.75 g of paratoluenesulfonic acid monohydrate are added and the mixture is again heated under reflux for 20 h, removing the water formed with the aid of a Dean-Stark apparatus. 1000 ml of water are then added. The organic phase is decanted, washed twice with water, dried over sodium sulfate and evaporated. The residue is purified on a silica column, eluting with a dichloromethane/acetone (90/10 by volume) mixture. The solid is taken up in diisopropyl ether and gives, after filtration, 17 g of 5-[1-methyl-2-phenoxyethylidene]-2,4-thiazolidinedione in the form of a yellow solid whose melting point is 153-155° C.

reactant | 2,4-thiazolidinedione | 29.3 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | phenoxy-2-propanone | 34.2 ml | O(C1=CC=CC=C1)CC(C)=O | C9H10O2
reactant | piperidine | 2.5 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.3 l | C(C)(=O)O | C2H4O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1000 ml | O | H2O
product | 5-[1-methyl-2-phenoxyethylidene]-2,4-thiazolidinedione | CC(COC1=CC=CC=C1)=C1C(NC(S1)=O)=O | C12H11NO3S
